US05861417
3.2.3 Synthesis of (3-phenyl-5-oxopyrrolidin-3-yl)acetic acid ethyl ester
Combine 3-cyano-3-phenylpentanedioic acid diethyl ester (396.6 g, 1.37 mol) and ethanol (4 L), and concentrated aqueous ammonia (530 mL), in a two gallon autoclave. Add Raney nickel (410 g). Heat to 24° C. and charge with 205 psi of hydrogen. After 26 hours, vent the reactor and purge with nitrogen. Filter the reaction mixture through a celite pad and rinse the solids with ethanol (1.5 L). Evaporate the filtrate in vacuo to give the title compound.

reactant | 3-cyano-3-phenylpentanedioic acid diethyl ester | 1.37 mol, 396.6 g | C(C)OC(CC(CC(=O)OCC)(C1=CC=CC=C1)C#N)=O | C16H19NO4
reactant | ammonia | 530 mL | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 410 g | [Ni] | Ni
solvent | ethanol | 4 L | C(C)O | C2H6O
product | (3-phenyl-5-oxopyrrolidin-3-yl)acetic acid ethyl ester | C(C)OC(CC1(CNC(C1)=O)C1=CC=CC=C1)=O | C14H17NO3
